US09371319B2
Preparation 128: Methyl-6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate
6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 22, 100 mg, 0.36 mmol) was dissolved in dry DMF (1 ml). The solution was degassed and a solution of sodium bis(trimethylsilyl)amide (0.55 ml of a 1M solution in THF, 0.55 mmol) was added. After 20 minutes reaction, methylchloroformate (52 mg, 0.55 mmol) was added and the reaction stirred for 2 hours at room temperature. The reaction was diluted with ethyl acetate and water. The organic solution was washed with brine, dried over sodium sulphate and concentrated in vacuum. The crude product was purified on silica gel column chromatography eluting with 20% hexane in ethyl acetate followed by 2% methanol in ethyl acetate to afford the title compound as a white powder (95 mg, 79%). 1H NMR (500 MHz, CDCl3) 3.96 (s, 3H), 4 (s, 3H), 6.57 (s, 1H), 7.63 (s, 1H), 7.64 (s, 1H), 8.1 (s. 1H), 8.53 (s, 1H)

reactant | 6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine | 0.36 mmol, 100 mg | BrC1=CC2=C(C=N1)C=C(N2)C=2C=NN(C2)C | C11H9BrN4
reactant | methylchloroformate | 0.55 mmol, 52 mg | COC(=O)Cl | C2H3ClO2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Methyl-6-bromo-2-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | 95 mg, 79% | COC(=O)N1C(=CC=2C=NC(=CC21)Br)C=2C=NN(C2)C | C13H11BrN4O2
